US07601702B2
5′-O-Triphenylsilyl-2′-deoxyuridine (11)
A solution of triphenylsilyl chloride (0.437 g, 1.48 mmol) in dry pyridine (4 mL) was added drop-wise to a solution of 2′-deoxyuridine (0.278 g, 1.22 mmol) in dry pyridine (4 mL) previously cooled in an ice-salt bath. The reaction mixture was kept at 0° C. for 1 h. The reaction was monitored by TLC (10% CH3OH in CHCl3) and quenched with CH3OH (50 L). The solvent was removed under reduced pressure to give a crude yellow liquid which was further purified by silica gel column chromatography (Isolute SI column) using a gradient elution of 0→10% CH3OH in CHCl3. The fractions with Rf=0.30 (10% CH3OH/CHCl3) were combined and concentrated to yield the title compound as a white crystalline solid (0.506 g, 85%).

reactant | triphenylsilyl chloride | 1.48 mmol, 0.437 g | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15ClSi
reactant | 2′-deoxyuridine | 1.22 mmol, 0.278 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | CH3OH | CO | CH4O
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5′-O-Triphenylsilyl-2′-deoxyuridine | 0.506 g, 85% | C1(=CC=CC=C1)[Si](OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26N2O5Si
